US05095136
C. (E,E)-(3,7,11-Trimethyl-2,6,10-dodecatrienyl) (trifluoromethyl)sulfone
A mixture of 12.20 g (42.8 mmol) of Part B farnesyl bromide, 8.0 g (52 mmol, 1.2 equiv) of potassium trifluoromethylsulfinate (Parrish Chemical) and 1.00 g (4.3 mmol, 0.1 equiv) of 18-crown-6 in 200 mL of dry dimethylformamide was stirred for 66 hours. The dimethylformamide was evaporated at reduced pressure with minimal warming. The residue was dissolved in 600 mL of diethyl ether and washed with three 70 mL portions of H20 and 70 mL of brine, dried over MgSO4 and evaporated. Purification by flash chromatography on 200 g of Merck 9385 silica eluted with 15:85 CH2Cl2 : hexane provided 1.35 g of mixed fractions and 9.02 g (63%) of pure product. The mixed fractions were rechromatographed on 60 g of silica gel, eluting with 15:85 CH2Cl2 : hexane to provide 0.95 g (7%) of pure title product. The two portions of pure title triflone product were combined: 9.97 g (70%) of a pale yellow oil.

reactant | farnesyl bromide | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
reactant | potassium trifluoromethylsulfinate | 52 mmol, 8.0 g, 1.2 equiv | FC(F)(F)S(=O)[O-].[K+]
reactant | 18-crown-6 | 4.3 mmol, 1.00 g, 0.1 equiv | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | (E,E)-(3,7,11-Trimethyl-2,6,10-dodecatrienyl) (trifluoromethyl)sulfone | 9.02 g, 63% | C\C(=C/CS(=O)(=O)C(F)(F)F)\CC\C=C(\CCC=C(C)C)/C | C16H25F3O2S
